US04731374
2-Amino-6-n-butylamino-4,5,6,7-tetrahydro-benzthiazole-dihydrochloride
To a solution of 3.4 g (0.02 Mol) of 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole in 34 ml of dimethylformamide are added 1.8 g (0.022 Mol) of n-butanal and the mixture is heated to 50° C. for 1 hour. After cooling, the reaction solution is mixed with 0.8 g (0.02 Mol) of sodium borohydride and heated to 50° C. for 30 minutes. The solvent is largely eliminated in vacuo. Whilst cooling with ice, the residue is mixed with 20 ml of water and 2N hydrochloric acid until a pH of 1 is obtained. The aqueous solution is extracted with ethylacetate and the organic phase discarded. The aqueous phase is mixed with potassium carbonate until an alkaline reaction is obtained and then extracted with ethyl acetate. The organic phase is dried and concentrated. The compound crystallizes out when ethereal hydrochloric acid is added.

reactant | 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole | 0.02 Mol, 3.4 g | NC=1SC2=C(N1)CCC(C2)N | C7H11N3S
reactant | n-butanal | 0.022 Mol, 1.8 g | C(CCC)=O | C4H8O
reactant | sodium borohydride | 0.02 Mol, 0.8 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-Amino-6-n-butylamino-4,5,6,7-tetrahydro-benzthiazole-dihydrochloride | Cl.Cl.NC=1SC2=C(N1)CCC(C2)NCCCC | InChI=1S/C11H19N3S.2ClH/c1-2-3-6-13-8-4-5-9-10(7-8)15-11(12)14-9;;/h8,13H,2-7H2,1H3,(H2,12,14);2*1H
